US04414372
2-(Trimethylsilyl)isobutyronitrile was prepared by the following procedure. To a stirred solution of 30.2 g (0.29 mole) of diisopropylamine in 220 ml of THF under argon was added at 0°-5° 184 ml of 1.58 M n-butyl lithium/hexane at a rate such that the temperature did not exceed 6°. After 15 min. 20 g (0.29 mole) of isobutyronitrile was added at 0°-5°. After 20 min., 47.3 g (0.44 mole) of chlorotrimethylsilane was added. After standing 18 h at room temperature, the mixture was filtered under argon and the filtrate was evaporated in vacuo to a solid which was extracted with ether and filtered. The filtrate was evaporated in vacuo to give 30.51 g (74%) of 2-(trimethysilyl)isobutyronitrile as a pale yellow watersensitive solid. Anal. Calcd. for C7H15NS: C, 59.50; H, 10.70; N, 9.92. Found: C, 59.60; H, 11.07; N, 9.74. I.R. (CCl4): 2220 cm-1 (C≡N), 847 cm-1, 1255 cm-1 (SiMe3). NMR (90 MHz): δ0.22 (9H, SiCH3); δ1.35 (6H, CCH3).

reactant | diisopropylamine | 0.29 mole, 30.2 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium hexane | 1.58 M, 184 ml | C(CCC)[Li].CCCCCC
reactant | isobutyronitrile | 0.29 mole, 20 g | C(C(C)C)#N | C4H7N
reactant | chlorotrimethylsilane | 0.44 mole, 47.3 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 220 ml | C1CCOC1 | C4H8O
product | 2-(trimethysilyl)isobutyronitrile | 30.51 g, 74% | C[Si](C(C#N)(C)C)(C)C | C7H15NSi
